US08183239B2
4-[4-(Diethylcarbamoyl-phenyl-methyl)-piperazin-1-yl]-N-(3,5-dimethyl-isoxazol-4-ylmethyl)-3-fluoro-benzamide
A mixture of 4-bromo-N-(3,5-dimethyl-isoxazol-4-ylmethyl)-3-fluoro-benzamide (0.31 mmol), N,N-diethyl-2-phenyl-2-piperazin-1-yl-acetamide (0.20 mmol), Cs2CO3 (1.2 mmol), Pd2(dba)3 (0.0030 mmol), and BINAP (0.0120 mmol) in toluene (2.0 mL) was stirred at 100° C. for 16 h. The mixture was cooled to rt and purified by PTLC to provide the title compound (60 mg, 58%). MS (ESI): mass calcd. for C29H36FN5O3, 521.28. m/z found, 522.4 [M+H]+. 1H NMR (CDCl3): 7.50-7.25 (m, 7H), 6.82 (t, J=8.5, 1H), 6.51 (t, J=5.2, 1H), 4.31 (d, J=5.3, 2H), 4.22 (s, 1H), 3.48-3.36 (m, 2H), 3.30-3.10 (m, 6H), 2.73-2.60 (m, 4H), 2.36 (s, 3H), 2.21 (s, 3H), 1.12-1.02 (m, 6H).

reactant | 4-bromo-N-(3,5-dimethyl-isoxazol-4-ylmethyl)-3-fluoro-benzamide | 0.31 mmol | BrC1=C(C=C(C(=O)NCC=2C(=NOC2C)C)C=C1)F | C13H12BrFN2O2
reactant | N,N-diethyl-2-phenyl-2-piperazin-1-yl-acetamide | 0.20 mmol | C(C)N(C(C(N1CCNCC1)C1=CC=CC=C1)=O)CC | C16H25N3O
reactant | Cs2CO3 | 1.2 mmol | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | BINAP | 0.0120 mmol | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.0030 mmol | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[4-(Diethylcarbamoyl-phenyl-methyl)-piperazin-1-yl]-N-(3,5-dimethyl-isoxazol-4-ylmethyl)-3-fluoro-benzamide | 60 mg, 58% | C(C)N(C(=O)C(N1CCN(CC1)C1=C(C=C(C(=O)NCC=2C(=NOC2C)C)C=C1)F)C1=CC=CC=C1)CC | C29H36FN5O3
